US08802659B2
5-(4-tert-Butyl-cyclohexyloxy)-2-methyl-benzothiazole
2-Methyl-benzothiazol-5-ol (2.5 g, 0.015 mol), cis-4-tert-butylcyclohexanol (2.84 g, 0.0182 mol), and Triphenylphosphine (4.76 g, 0.0182 mol) were combined in dry Toluene (100 mL, 1 mol) and stirred under nitrogen. Diisopropyl azodicarboxylate (3.6 mL, 0.018 mol) was added dropwise. The reaction was then stirred at RT overnight. Reaction was then concentrated to dryness and then residue was dissolved in DCM and 5 g of SiO2 was added. Solvent was removed under reduced pressure and resulting powder was loaded onto a 40 g column and purified via column chromatography using a gradient of 0-60% EtOAC/Hexanes.

reactant | 2-Methyl-benzothiazol-5-ol | 0.015 mol, 2.5 g | CC=1SC2=C(N1)C=C(C=C2)O | C8H7NOS
reactant | cis-4-tert-butylcyclohexanol | 0.0182 mol, 2.84 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)O | C10H20O
reactant | Triphenylphosphine | 0.0182 mol, 4.76 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Toluene | 1 mol, 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | Diisopropyl azodicarboxylate | 0.018 mol, 3.6 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 5-(4-tert-Butyl-cyclohexyloxy)-2-methyl-benzothiazole | C(C)(C)(C)C1CCC(CC1)OC=1C=CC2=C(N=C(S2)C)C1 | C18H25NOS
